US07402595B2
2-(4-carboxybenzyl)-6-chloro-4-(3-hydroxymethylphenyl)-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
To a solution of 6-chloro-4-(3-hydroxymethylphenyl)-2-(4-methoxycarbonylbenzyl)-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (130 mg) in methanol (4.0 ml) was added 1N sodium hydroxide (390 μl), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was adjusted to pH 3 with 1N hydrochloric acid and concentrated under reduced pressure. The residue was partitioned between water and ethyl acetate, and the organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/methanol=10/1) to give the title compound (92 mg) as a colorless powder. 1H-NMR (CDCl3) δ: 3.23 (3H, s), 4.76 (2H, s), 5.41 (1H, d, J=15.6 Hz), 5.48 (1H, d, J=15.6 Hz), 7.18-7.30 (3H, m), 7.35 (2H, d, J=8.7 Hz), 7.42-7.47 (2H, m), 7.52 (1H, dd, J=2.1, 8.4 Hz), 8.02 (2H, d, J=8.7 Hz), 8.48 (1H, d, J=8.4 Hz). HPLC analysis: purity 97.9% (retention time: 3.84 min). MS (ESI+): 478 (M+H), 480.

reactant | 6-chloro-4-(3-hydroxymethylphenyl)-2-(4-methoxycarbonylbenzyl)-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 130 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC(=CC=C1)CO)Cl)=O)CC1=CC=C(C=C1)C(=O)OC | C27H22ClNO6
reactant | sodium hydroxide | 1N, 390 μl | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 4.0 ml | CO | CH4O
product | 2-(4-carboxybenzyl)-6-chloro-4-(3-hydroxymethylphenyl)-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 92 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC(=CC=C1)CO)Cl)=O)CC1=CC=C(C=C1)C(=O)O | C26H20ClNO6
